US08871950B1
(2R,3S,4S)-3,4,5-Tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentan-1-ol
To a solution of (R)-1-((R)-1-phenylethyl)-2-((1S,2S)-1,2,3-tris(benzyloxy)propyl)aziridine (340 mg, 0.67 mmol) in CH2Cl2 (2 mL, 0.3 M) was added AcOH (0.38 mL, 6.7 mmol, 10 equiv). The reaction mixture was stirred for 18 hrs at room temperature, diluted with CH2Cl2 and quenched with saturated NaHCO3 solution. The aqueous layer was extracted with CH2Cl2 and the combined organic layer was washed with brine, dried over MgSO4, filtered through a pad of celite and concentrated in vacuo. The resulting acetate was used without further purification. To a solution of the acetate in EtOH (2 mL, 0.3 M) was added KOH (113 mg, 2.1 mmol, 3 equiv). The reaction mixture was stirred for 2 hrs at room temperature, diluted with CH2Cl2 and quenched with water. The aqueous layer was extracted with CH2Cl2 and the combined organic layer was washed with brine, dried over MgSO4, filtered through a pad of celite and concentrated in vacuo. The resulting crude product was purified by silica gel flash chromatography with ethyl acetate/hexane (1/4 to 1/2) to afford the title product. Yield: 225 mg (64% yield over 2 steps); yellow oil.

reactant | (R)-1-((R)-1-phenylethyl)-2-((1S,2S)-1,2,3-tris(benzyloxy)propyl)aziridine | 0.67 mmol, 340 mg | C1(=CC=CC=C1)[C@@H](C)[N@@]1C(C1)[C@@H]([C@H](COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H37NO3
reactant | AcOH | 6.7 mmol, 0.38 mL, 10 equiv | CC(=O)O | C2H4O2
reactant | acetate | C(C)(=O)[O-]
reactant | KOH | 2.1 mmol, 113 mg, 3 equiv | [OH-].[K+]
reactant | EtOH | 0.3 M, 2 mL | CCO | C2H6O
solvent | CH2Cl2 | 0.3 M, 2 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S,4S)-3,4,5-Tris(benzyloxy)-2-(((R)-1-phenylethyl)amino)pentan-1-ol | 64% yield | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO)N[C@H](C)C1=CC=CC=C1)[C@H](COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H39NO4
